Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Headache, right-sided weakness and numbness, aphasia
 
Major Surgical or Invasive Procedure:
N/A
tPA given in outside hospital
 
History of Present Illness:
Mrs. ___ is a ___ years-old woman with a history of former 
cocain-abuse and former hypertension who had a spontaneous and 
seemingly unprovoked intraparenchymal hemorrhage that manifested 
as a headache which occurred ___ weeks prior to her admission. 
She had no additional symptoms aside from her headache (which 
occurred ___ weeks ago and resolved within a day). Her blood 
pressure on admission was normal and her MR imaging showed no 
sign of an aneurysm. She reported noo= clear triggers to explain 
her sudden bleed. As such, the etiology of her stroke remains 
uncertain. She recovered well from her bleed, which was 
radiographically dated at least 3 weeks ago. She thus required 
no further medical intervention during her hospital stay.
Transitional issues:
She will need to repeat an MRI brain with and without contrast 
in ___ months to evaluate the tissue surrounding her bleed. 
Hyperlipidemia - LDL 95 on admission, patient to follow-up with 
PCP ___: statin choice. 
 
Past Medical History:
History of prior left-sided weakness that self-resolved. Non-con 
head CT done at ___ was negative for acute bleed and no 
further work-up was done.
 
Social History:
___
Family History:
Nephew who has a stroke during infancy
 
Physical Exam:
EXAM ON ADMISSION:
Vitals:  T: 99.7   HR: 80   BP: 145/95   RR: 18   SaO2: 100% on 
room air
General:  NAD, appears mildly uncomfortable
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR, no M/R/G
Pulmonary: CTAB, no crackles or wheezes
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented  self, date, and place.  
Speaks primarily in ___.  Speaks in broken ___ word phrases, 
with delayed response latencies.  Appears to be distressed by 
her lack of speech output.  Able to repeat simple phrases with 
difficulty with longer phrases. She is able to read from the 
stroke card. Names ___ items on stroke card. Able to write her 
name.  ___ appears to be intact, as she is able to 
follow axial and appendicular commands. No significant 
paraphasic errors.  Prosody is within normal limits.  No 
evidence of hemineglect, or left right confusion. 

- Cranial Nerves: PERRL 3->2 brisk. VF full to finger wiggle. 
EOMI, no nystagmus. V1-V3 without deficits to light touch 
bilaterally.  There is right facial droop with decreased 
activation.  Palate elevation symmetric. SCM/Trapezius strength 
___ bilaterally. Tongue midline.

- Motor:  Normal bulk and tone. No drift. No tremor or 
asterixis.
  [___]
L   5     5    5    5    ___    5     5   5    5    5
R   >3    >3   >3   >3   >3  4   >3   4     >3  4    4+   5  
 
- Reflexes: 
   [Bic] [Tri] [___] [Quad] [Gastroc]
 L  2+    2+     2+      2+       1
 R  2+    2+     2+      2+       1  

Plantar response mute bilaterally 

- Sensory: No deficits to light touch, pin. No extinction to 
DSS.

- Coordination: No dysmetria with finger to nose testing on the 
left.  No ataxia out of proportion to her weakness on the right. 
 Good speed and intact cadence with rapid alternating movements.

- Gait:  Deferred

DISCHARGE EXAM:
VSS
General Exam: Sitting up in bed, smiling
Pulmonary: Breathing comfortably on room air
Cardiac: Well perfused, regular rate, no murmurs 
Abd: Soft NT ND
Ext: Non-edematous, well perfused

Neuro:
MS: Fluent, soft speech. Difficulty with low frequency. Able to
repeat a phrase. 
CN: VFF, Mild R facial asymmetry. activation intact
Motor:  Normal bulk and tone. No drift, bilateral finger curl. 
No
tremor or asterixis.
  [Delt][Bic][Tri][ECR][FEx][IP][Quad][Ham][TA]
L   5     5    5    5    5    5    5     5   5-       
R   4+    5    4+  4+   4+   4+   5-     4+  5         
Toes mute
Sensation: Intact
Coordination: No dysmetria on FNF
Gait - deferred

 
Pertinent Results:
___ 06:30AM BLOOD WBC-5.8 RBC-4.61 Hgb-13.4 Hct-40.2 MCV-87 
MCH-29.1 MCHC-33.3 RDW-13.2 RDWSD-41.6 Plt ___
___ 01:20PM BLOOD ___ PTT-30.9 ___
___ 05:22PM BLOOD Lupus-NEG

___ 06:30AM BLOOD Glucose-99 UreaN-11 Creat-0.6 Na-141 
K-3.8 Cl-106 HCO3-22 AnGap-13
___ 06:30AM BLOOD ALT-12 AST-15
___ 10:41PM BLOOD D-Dimer-3298*
___ 10:15AM BLOOD %HbA1c-5.6 eAG-114
___ 10:15AM BLOOD Triglyc-154* HDL-37* CHOL/HD-5.1 
LDLcalc-120
___ 04:18PM BLOOD ___ CRP-7.1*
___ 10:15AM BLOOD TSH-1.8
___ 06:50PM BLOOD PROTHROMBIN MUTATION ANALYSIS-PND
___ 06:50PM BLOOD FACTOR V LEIDEN-PND
___ 04:18PM BLOOD SED RATE-Test      
___ 01:20PM BLOOD BETA-2-GLYCOPROTEIN 1 ANTIBODIES (IGA, 
IGM, IGG)-PND

IMAGES:

CT CHEST W/CONTRAST
1. No evidence of malignancy in the chest.
2. Please refer to separate report for same-day CT abdomen 
pelvis study for
discussion findings below the diaphragm.
 
RENAL ULTRASOND
Normal renal ultrasound.  No evidence of renal artery stenosis.  
The specific
anatomic diagnosis of fibromuscular dysplasia cannot be 
addressed on this
imaging modality.

MR HEAD WITHOUT CONTRAST:
1. Subacute infarct in the distribution of the left lateral 
lenticulostriate
arteries.
2. Increased signal in the sulci in the left frontoparietal lobe 
likely
represents slow slow flow secondary to proximal MCA stenosis.  
However, this
could also represent a focus of subarachnoid hemorrhage.

CTA Head and Neck:

___  ___  ___
Radiology ReportCTA HEAD AND CTA NECKStudy Date of ___ 
10:57 ___
 
___ ___ 10:57 ___
CTA HEAD AND CTA NECK Clip # ___  
Reason: plz eval for evidence of vascular abnormality plz eval 
for evidence of vascular abnormality
UNDERLYING MEDICAL CONDITION:
   History: ___ with stroke
REASON FOR THIS EXAMINATION:
   plz eval for evidence of vascular abnormality
CONTRAINDICATIONS FOR IV CONTRAST:
   None.
Wet Read by ___ ___ 11:13 AM
 
CT head without contrast: No evidence of acute intracranial 
process such as
hemorrhage or large vascular territory infarction.
 
CTA head and neck: There is no evidence of dissection, 
occlusion, or
aneurysmal formation of the circle ___ and its principal 
intracranial
branches. No evidence vascular abnormalities of bilateral 
internal carotid or
vertebral arteries. Dural ___ add ous sinuses are patent.
 
Final read pending 3D reformats.
Wet Read Audit # 1 by ___ on ___ 11:14 ___
CT head without contrast: No evidence of acute intracranial 
process such as
hemorrhage or large vascular territory infarction.
 
CTA head and neck: There is no evidence of dissection, 
occlusion, or
aneurysmal formation of the circle ___ and its principal 
intracranial
branches. No evidence vascular abnormalities of bilateral 
internal carotid or
vertebral arteries. Dural venous sinuses are patent.
 
Final read pending 3D reformats.
Final Report
EXAMINATION:  CTA HEAD AND CTA NECK Q16 CT NECK
 
INDICATION:  History: ___ with stroke// plz eval for evidence of 
vascular
abnormality
 
TECHNIQUE:  Contiguous MDCT axial images were obtained through 
the brain
without contrast material. Subsequently, helically acquired 
rapid axial
imaging was performed from the aortic arch through the brain 
during the
infusion of Omnipaque intravenous contrast material.  3D volume 
rendering was
obtained.  This report is based on interpretation of all of 
these images.
 
DOSE:  Acquisition sequence:
   1) Sequenced Acquisition 16.0 s, 16.0 cm; CTDIvol = 50.2 mGy 
(Head) DLP =
802.7 mGy-cm.
   2) Stationary Acquisition 2.0 s, 0.5 cm; CTDIvol = 21.8 mGy 
(Head) DLP =
10.9 mGy-cm.
   3) Spiral Acquisition 4.8 s, 37.9 cm; CTDIvol = 31.0 mGy 
(Head) DLP =
1,174.1 mGy-cm.
 Total DLP (Head) = 1,988 mGy-cm.
 
COMPARISON:  None.
 
FINDINGS: 
 
CT HEAD WITHOUT CONTRAST:
There is no evidence of no evidence of infarction, hemorrhage, 
edema, or mass.
The ventricles and sulci are normal in size and configuration.
 
The visualized portion of the paranasal sinuses, mastoid air 
cells, and middle
ear cavities are clear. The visualized portion of the orbits are 
unremarkable.
 
CTA HEAD:
There are bilateral persistent fetal origins of the PCAs.  There 
is a beaded
appearance of the left MCA M1 segment with areas of near to 
complete stenosis
most significantly just before the M1/M2 bifurcation.  Note is 
made of
prominent medial/lateral lenticulostriate arteries.  The vessels 
of the circle
___ and their principal intracranial branches appear 
normal without
stenosis, occlusion, or aneurysm formation.  The dural venous 
sinuses are
patent.
 
CTA NECK:
The carotid and vertebral arteries and their major branches 
appear normal with
no evidence of stenosis or occlusion. There is no evidence of 
internal carotid
stenosis by NASCET criteria.
 
OTHER:
The visualized portion of the lungs are clear.  The visualized 
portion of the
thyroid gland is within normal limits. There is no 
lymphadenopathy by CT size
criteria.
 
IMPRESSION:
1. Evidence of chronic steno-occlusive disease of the left MCA 
M1 segment with
areas of near to complete stenosis most significantly just 
before the M1/M2
bifurcation.  
2. No acute hemorrhage or gross evidence for acute infarct.  
3. Normal CTA of the neck, otherwise.
 
Brief Hospital Course:
___ is a ___ woman with no known past
medical history who presented as an outside hospital transfer
status post TPA for left MCA syndrome. Neurologic exam initially
significant fibrocystic aphasia, right face/arm more than leg
weakness without sensory deficits. 

CTA head and neck showed significant proximal stenosis of the
left MCA. In addition there was also reported stenosis of the
right vertebral. Initially, the differential diagnosis of
fibromuscular dysplasia or moyamoya was raised given possible
multiple large vessel stenoses and dilation of the
lenticulostriates on the left. Therefore, renal ultrasound was
obtained which is normal. Also CT torso did not reveal any
abnormal vessels. After reviewing at neuroradiology conference,
the only vessels that were stenosis were noted to be left MCA 
and
right vertebral at the origin. Lenticulostriate dilation was
thought to be secondary to recent/acute stenosis the left MCA.

MRI showed small infarct in the lenticulostriate/anterior
choroidal artery distribution/ Hypercoag w/u pending.

Because of her young age, hypercoagulable workup was sent and is
pending. D-dimer was also sent returning high at 3298 -within 24
hours of admission. Therefore, CT torso was obtained to evaluate
for malignancy and was unremarkable. MRV Pelvis and Lower 
Extremity Ultrasound was obtained to rule out DVT.

Echocardiogram demonstrated a normal atrium size and volume, 
without evidence of clot or PFO. Telemetry was without 
paroxysmal arrhythmia. 

Physical therapy has worked with her and she is now ready for
home with family help. The patient has no insurance or primary
care provider and therefore cannot be sent home with ___ of
___ monitor. If her insurance status changes, she will need 
to schedule this in the outpatient setting. 

She was started on atorvastatin 81 mg, Asa 81mg, and Fluoxetine 
20 mg during her hospital stay.

Transitional Issues:
1. Follow-up Factor V Leiden, Prothrombin Gene Mutation to 
determine anticoagulation course in future
2. Follow-up with ___ pending patient's insurance in 
outpatient setting
3. Speech/Swallow: Continue outpatient speech and swallow 
therapy as prescribed. Consider Video swallow study per speech 
and swallow recommendations.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin [Adult Low Dose Aspirin] 81 mg 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*12 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*12 
3.  FLUoxetine 20 mg PO DAILY Mood 
RX *fluoxetine 20 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*6 
4.Outpatient Speech/Swallowing Therapy
ICD10 ___.___
5.Video Swallow Study
___.___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute Ischemic Stroke in R. lenticulostriate/anterior choroidal 
artery

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were hospitalized due to symptoms of right-sided weakness 
resulting from an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:

High Cholesterol (LDL 120)

We are changing your medications as follows:
START TAKING: 
Aspirin 81 mg
Atorvastatin 40 mg

You still had some difficulty swallowing regular food. Please 
continue to eat chopped food, as you were during your 
hospitalization. You will need to continue to work with speech 
and swallow therapy to advance to regular food.
Please take your other medications as prescribed.
Please follow up with Neurology and your primary care physician 
as listed below.
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body
Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___